US06984653B2
Production of N-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]-2-propanesulfonamide
Using 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine (248 mg), triethylamine (135 μl) and 2-propanesulfonyl chloride (65.5 μl), the same reaction as Example 31 was carried out to yield the titled compound (55 mg) as colorless needle crystals.

reactant | 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine | 248 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCN)(F)F | C28H29F3N4O2
reactant | 2-propanesulfonyl chloride | 65.5 μl | CC(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | triethylamine | 135 μl | C(C)N(CC)CC | C6H15N
product | N-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]-2-propanesulfonamide | 55 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCNS(=O)(=O)C(C)C)(F)F | C31H35F3N4O4S
